US08471005B2
Into a 1-Neck round-bottom flask, 2-Methylsulfanyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrrolo[2,1-f][1,2,4]triazine (1.80 g, 6.18 mmol), Tetrahydrofuran (100 mL, 1000 mmol), and 50% aq. Hydrogen peroxide (1:1, Hydrogen peroxide:Water, 6.00 mL, 97.9 mmol) were added and stirred at room temperature for 2 hours. 19.10 M of Sodium hydroxide in Water (6.00 mL, 115 mmol) was added at 0° C. Vigorous gas evolution was observed for 15 minutes. The reaction was quenched with saturated sodium thiosulfate (100 mL). The reaction was partitioned with water and EtOAc. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum. The reaction mixture was purified via ISCO column chromatography with hexane and EtOAc as eluant (0 to 100% EtOAc). The collected fractions afforded 2-Methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-5-ol a yellow solid (1.00 g, 89%).

reactant | 2-Methylsulfanyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrrolo[2,1-f][1,2,4]triazine | 6.18 mmol, 1.80 g | CSC1=NN2C(C=N1)=C(C=C2)B2OC(C(O2)(C)C)(C)C | C13H18BN3O2S
reactant | Tetrahydrofuran | 1000 mmol, 100 mL | O1CCCC1 | C4H8O
reactant | Hydrogen peroxide | 97.9 mmol, 6.00 mL | OO | H2O2
reactant | Sodium hydroxide | 19.10 M | [OH-].[Na+]
reactant | Water | 115 mmol, 6.00 mL | O | H2O
product | 2-Methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-5-ol | CSC1=NN2C(C=N1)=C(C=C2)O | C7H7N3OS
